US08835428B2
Step 3: 3-(3-Fluoro-4-nitro-phenyl)-isoxazole-5-carboxylic acid ethyl ester:
To a solution of 3-fluoro-4-nitro-benzaldehyde oxime (6 g; 32.6 mmol) in acetonitrile (120 mL) was added hydroxy tosyloxy iodobenzene (16.58 g; 42.3 mmol) and ethyl propiolate (6.38 g; 65.2 mmol) under stirring. The resulting reaction mixture was stirred at 80° C. for 2-3 h. After the completion of the reaction, it was evaporated to dryness. The solid thus obtained was dissolved in ethyl acetate and washed with brine and dried over anhydrous Na2SO4. The solvent was removed and the residue was purified by flash chromatography over silica gel with 20% ethyl acetate in light petroleum to give 6.4 g (74%) of the title compound. IR (KBr): 3134, 3060, 2975, 1717, 1610, 1593, 1522, 1458, 1446 cm−1; MS (m/z): 279 (M−−1); 1H NMR (DMSO-d6) δ: 1.31-136 (t, 3H, CH2CH3), 4.36-4.43 (q, 2H, CH2CH3), 8.04 (d, 1H, J=9.0, 6′-H), 8.09 (s, 1H, 4-H), 8.16 (d, 1H), 8.30 (t, 1H).

reactant | 3-fluoro-4-nitro-benzaldehyde oxime | 32.6 mmol, 6 g | FC=1C=C(C=NO)C=CC1[N+](=O)[O-] | C7H5FN2O3
reactant | hydroxy tosyloxy iodobenzene | 42.3 mmol, 16.58 g | OC=1C(=C(C=CC1)I)OS(=O)(=O)C1=CC=C(C)C=C1 | C13H11IO4S
reactant | ethyl propiolate | 65.2 mmol, 6.38 g | C(C#C)(=O)OCC | C5H6O2
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluoro-4-nitro-phenyl)-isoxazole-5-carboxylic acid ethyl ester | 6.4 g, 74% | C(C)OC(=O)C1=CC(=NO1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C12H9FN2O5
